US05763635
(+/-) Ethyl 2-(1-acetoxy-1,2,3,4-tetrahydro-4,4-dimethyl-7-bromo-naphthalen-1-yl)acetate (Compound E48)
To a solution of (+/-) ethyl 2-(1-hydroxy-1,2,3,4-tetrahydro-4,4-dimethyl-7-bromo-naphthalen-1-yl)acetate (Compound E47, 200.0 mg, 0.586 mmol) and 4-N,N-dimethylaminopyridine (86.0 mg, 0.703 mmol) in 4.0 mL CH2Cl2 at 0° C. was added acetic anhydride (239.3 mg, 2.344 mmol). The resulting solution was warmed to room temperature and stirred overnight. The reaction was warmed to 50° C. for 3 h, cooled to room temperature, and diluted with EtOAc (70 mL). The solution was washed with H2O, saturated aqueous NaHCO3, 10% aqueous HCl, and saturated aqueous NaCl, before being dried over MgSO4. Removal of the solvents under reduced pressure followed by column chromatography afforded the title compound as a colorless oil.

reactant | (+/-) ethyl 2-(1-hydroxy-1,2,3,4-tetrahydro-4,4-dimethyl-7-bromo-naphthalen-1-yl)acetate | 0.586 mmol, 200.0 mg | OC1(CCC(C2=CC=C(C=C12)Br)(C)C)CC(=O)OCC | C16H21BrO3
reactant | acetic anhydride | 2.344 mmol, 239.3 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | (+/-) Ethyl 2-(1-acetoxy-1,2,3,4-tetrahydro-4,4-dimethyl-7-bromo-naphthalen-1-yl)acetate | C(C)(=O)OC1(CCC(C2=CC=C(C=C12)Br)(C)C)CC(=O)OCC | C18H23BrO4
